US07981883B2
11. Synthesis of 4-tert-butylbenzaldehyde oxime
Hydroxylamine hydrochloride (4.65 g, 67.4 mmol) was slowly added to a solution of 4-tert-butylbenzaldehyde (10 g, 61.6 mmol) in water (34 ml) and EtOH (7 ml). An aqueous solution of sodium hydroxide (3.6 g, 153 mmol) was slowly added dropwise, so the temperature of the reaction mixture did not exceed 25° C. The reaction mixture was stirred overnight at RT and mixed with diethyl ether. The aqueous phase was neutralised with 0.5 M aq. hydrochloric acid solution and extracted several times with ether. The combined organic phases were dried over magnesium sulphate and the solvent was removed under vacuum. The desired product 4-tert-butylbenzaldehyde oxime was obtained in a yield of 84% of the theoretical amount (9.1 g)

reactant | Hydroxylamine hydrochloride | 67.4 mmol, 4.65 g | Cl.NO
reactant | 4-tert-butylbenzaldehyde | 61.6 mmol, 10 g | C(C)(C)(C)C1=CC=C(C=O)C=C1 | C11H14O
reactant | sodium hydroxide | 153 mmol, 3.6 g | [OH-].[Na+]
reactant | hydrochloric acid | 0.5 M | Cl | ClH
solvent | water | 34 ml | O | H2O
solvent | EtOH | 7 ml | CCO | C2H6O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-tert-butylbenzaldehyde oxime | C(C)(C)(C)C1=CC=C(C=NO)C=C1 | C11H15NO
